US07317033B2
c) (2,4-Dichloro-thiophen-3-yl)-(5-fluoro-1H-benzoimidazol-2-yl)-amine hydrochloride
(4-Chloro-thiophen-3-yl)-(5-fluoro-1H-benzoimidazol-2-yl)-amine (85 mg) was dissolved in acetic acid (4 ml) and under vigorous stirring at room temperature a solution of N-chlorosuccinimide (42 mg) in acetic acid (4 ml) was added. After stirring for 45 min. at room temperature, stirring was continued for 5 h at 50° C. After the addition of further N-chlorosuccinimide (4 mg) stirring was continued for one hour at 50° C. Then the reaction mixture was treated with toluene (20 ml) and solvent mixture distilled off. The residue was dissolved in ethyl acetate and washed with saturated potassium carbonate solution. The organic layer was dried (MgSO4), filtered and concentrated. The residue was purified by preparative HPLC, the product containing fractions were combined, the acetonitrile was removed, the aqueous residue made basic and extracted three times with ethyl acetate. The organic layers were combined, dried (MgSO4) and filtered. After removal of the solvent water and 2 N HCl were added to the residue. After freeze drying the desired product (17 mg) was obtained.

reactant | (4-Chloro-thiophen-3-yl)-(5-fluoro-1H-benzoimidazol-2-yl)-amine | 85 mg | ClC=1C(=CSC1)NC1=NC2=C(N1)C=CC(=C2)F | C11H7ClFN3S
reactant | N-chlorosuccinimide | 42 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 4 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | (2,4-Dichloro-thiophen-3-yl)-(5-fluoro-1H-benzoimidazol-2-yl)-amine hydrochloride | Cl.ClC=1SC=C(C1NC1=NC2=C(N1)C=CC(=C2)F)Cl | InChI=1S/C11H6Cl2FN3S.ClH/c12-6-4-18-10(13)9(6)17-11-15-7-2-1-5(14)3-8(7)16-11;/h1-4H,(H2,15,16,17);1H
